US05686424
Using the procedure described in Example 5, treatment of a solution of L-proline-L-isoleucine benzylamide (160.7 mg, 0.50 mmol), with triethylamine (3.53 mL, 2.53 mmol, 5.0 eq), and 1-adamantyl bromomethyl ketone (156 mg, 0.61 mmol, 1.2 eq) in THF (20 mL), provided 180 mg (99%) of L-isoleucine, N-[1-(2-adamantan-1-yl-2-oxoethyl)-L-Prolyl] benzylamide as a white foam.

reactant | L-proline L-isoleucine benzylamide | 0.50 mmol, 160.7 mg | N1[C@H](C(=O)O)CCC1.C(C1=CC=CC=C1)NC([C@@H](N)[C@@H](C)CC)=O
reactant | triethylamine | 2.53 mmol, 3.53 mL, 5.0 eq | C(C)N(CC)CC | C6H15N
reactant | 1-adamantyl bromomethyl ketone | 0.61 mmol, 156 mg, 1.2 eq | BrCC(=O)C12CC3CC(CC(C1)C3)C2 | C12H17BrO
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | L-isoleucine, N-[1-(2-adamantan-1-yl-2-oxoethyl)-L-Prolyl] benzylamide | 180 mg, 99% | C12(CC3CC(CC(C1)C3)C2)C(CN2[C@H](C(=O)N(C([C@@H](N)[C@@H](C)CC)=O)CC3=CC=CC=C3)CCC2)=O | C30H43N3O3
